US05506192
A mixture of 2.0 g of N-methyl 3-(4,6-dimethoxy-2-pyrimidinylmethyl)-5-trimethylsilyl-4-isothiazolecarboxanilide, 1.5 g of manganese (III) triacetate, 20 ml of acetic acid and 30 ml of methylene dichloride is stirred at RT for 48 hours. The resulting suspension is suction filtered through filter aid and the filter cake washed with water and methylene dichloride. The organic layer is separated, dried and concentrated. The concentrate is flash chromatographed through 300 ml silica gel, 230-400 mesh, using 1 l 70/30 hexane/ethyl acetate, 500 ml 50/50 hexane/ethyl acetate taking 30×50 ml fractions. Fractions 10-15 give a mixture of two components which is heated with boron trifluoride methanol complex (4 drops) in 50 ml of toluene at 80° C. for 2 hrs. The reaction mixture is washed with 30 ml of 15% sodium bicarbonate solution, dried, and concentrated. The concentrate is flash chromatographed through 300 ml silica gel, 230-400 mesh, using 1 l 60/40 hexane/ethyl acetate, 500 ml 40/60 hexane/ethyl acetate and 200 ml ethyl acetate taking 34×50 ml fractions. Fractions 20-23 give N-methyl 3-(4,6-dimethoxy-2-pyrimidinylmethyl)-4-isothiazolecarboxanilide, 0.12 g, mp 92°-93° (Table F, cpd. no. 513). Fractions 24-28 give N-methyl 3-(4,6-dimethoxy-2-pyrimidinylcarbonyl)-4-isothiazolecarboxanilide, 0.3 g, mp 140°-142° C. (Table F, cpd. no. 514).

reactant | N-methyl 3-(4,6-dimethoxy-2-pyrimidinylmethyl)-5-trimethylsilyl-4-isothiazolecarboxanilide | 2.0 g | CN(C1=CC=CC=C1)C(=O)C=1C(=NSC1[Si](C)(C)C)CC1=NC(=CC(=N1)OC)OC | C21H26N4O3SSi
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
reactant | methylene dichloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
catalyst | manganese (III) triacetate | 1.5 g | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Mn+3]
product | N-methyl 3-(4,6-dimethoxy-2-pyrimidinylmethyl)-4-isothiazolecarboxanilide | CN(C1=CC=CC=C1)C(=O)C=1C(=NSC1)CC1=NC(=CC(=N1)OC)OC | C18H18N4O3S
